US04640831
Preparation of 2,6-diphenylpyridine hydrobromide (not an example of the invention)
Hydrogen bromide gas is introduced into a solution of 30 g (0.130 mole) of 2,6-diphenylpyridine in 150 ml of toluene. The solid which forms is isolated by vacuum filtration. The filtrate is retreated with hydrogen bromide until no more solid is formed. The solid is then dried in vacuo. The product has a melting point of 161° C.-162° C.

reactant | Hydrogen bromide | Br | BrH
reactant | 2,6-diphenylpyridine | 0.130 mole, 30 g | C1(=CC=CC=C1)C1=NC(=CC=C1)C1=CC=CC=C1 | C17H13N
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 2,6-diphenylpyridine hydrobromide | Br.C1(=CC=CC=C1)C1=NC(=CC=C1)C1=CC=CC=C1 | InChI=1S/C17H13N.BrH/c1-3-8-14(9-4-1)16-12-7-13-17(18-16)15-10-5-2-6-11-15;/h1-13H;1H
